US05180741
Stage A: 4-(2-methyl-2-propenyl)-1-indanone
9 g of (2-methyl-2-propenyl)-tributyl stannane, 5.25 g of 4-bromo indanone, 50 ml of dimethylformamide and 300 g of tetrakis phenyl phosphine palladium are heated to 125° C. under agitation for 45 minutes. After cooling, the mixture is poured into an iced solution of 7.5 g of potassium fluoride in 300 ml of water, agitated for 5 minutes and filtered on celite. The filtrate is extracted with isopropyl ether, dried and concentrated to dryness under reduced pressure. The residue is chromatographed on silica, eluting with a hexane-ethyl acetate mixture (8-2) and 4 g of expected product is recovered.

reactant | (2-methyl-2-propenyl)-tributyl stannane | 9 g | CC(C[Sn](CCCC)(CCCC)CCCC)=C
reactant | 4-bromo indanone | 5.25 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium fluoride | 7.5 g | [F-].[K+]
solvent | water | 300 ml | O | H2O
catalyst | tetrakis phenyl phosphine palladium | 300 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(2-methyl-2-propenyl)-1-indanone | CC(CC1=C2CCC(C2=CC=C1)=O)=C | C13H14O
